US07514449B2
Methyl trans-4-aminocyclohexanecarboxylate hydrochloride (4.08 g) obtained in Reference Example 2(1) is suspended in chloroform (50 ml), and thereto is added triethylamine (8.8 ml) under ice-cooling. Subsequently, a solution of 3-chloropropanesulfonyl chloride (3.35 ml) in chloroform (20 ml) is added dropwise over 20 minutes under the same temperature. After stirring for 2 hours at room temperature, 5% hydrochloric acid is added to the reaction solution and the mixture is extracted with chloroform. The organic layer is washed with saturated brine, dried over sodium sulfate and evaporated to remove the solvent under reduced pressure. The resulting residue is suspended in diisopropylamine, and filtered to collect precipitates to give methyl trans-4-{[(3-chloropropyl)sulfonyl]amino}cyclohexanecarboxylate (6.14 g).

reactant | Methyl trans-4-aminocyclohexanecarboxylate hydrochloride | 4.08 g | Cl.N[C@@H]1CC[C@H](CC1)C(=O)OC
reactant | triethylamine | 8.8 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloropropanesulfonyl chloride | 3.35 ml | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl trans-4-{[(3-chloropropyl)sulfonyl]amino}cyclohexanecarboxylate | 6.14 g | ClCCCS(=O)(=O)N[C@@H]1CC[C@H](CC1)C(=O)OC | C11H20ClNO4S
